US08710043B2
Step 2. (S,E)-N-((3-Fluoropyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide
A mixture of 3-fluoropicolinaldehyde (300 g, 2400 mmol), copper sulfate (572 g, 3600 mmol) and (S)-2-methylpropane-2-sulfinamide (319 g, 2640 mmol) in DCM (3 L) in a 10 L 3-neck round bottom flask was stirred for 3 h at rt. The progress of the reaction was monitored by TLC (30% EtOAc in petroleum ether). After completion of reaction, the solid was filtered off and the filtrate was concentrated under vacuum. The initially obtained product was purified by column chromatography using silica (60-120 mesh) with 20% EtOAc in n-hexane as eluent to give the title compound sulfinamide as yellow oil. 1H-NMR (400 MHz, CDCl3): δ ppm 8.89 (s, 1H), 8.64 (s, 1H), 7.55 (t, J=8.4 Hz, 1H), 7.46 (d, J=3.6 Hz, 1H), 1.29 (s, 9H). MS (ESI pos. ion) m/z: 155.0 (M-O and t-Bu).

reactant | 3-fluoropicolinaldehyde | 2400 mmol, 300 g | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | (S)-2-methylpropane-2-sulfinamide | 2640 mmol, 319 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 3 L | C(Cl)Cl | CH2Cl2
catalyst | copper sulfate | 3600 mmol, 572 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-N-((3-Fluoropyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | FC=1C(=NC=CC1)\C=N\[S@@](=O)C(C)(C)C | C10H13FN2OS
